US05273975
1,2,6,7-Tetrahydro-6-(dimethylamino)-3H,5H-pyrido(1,2,3-de)quinoxalin-2-one (compound 48)
This compound was prepared using the procedure of Example 66, but substituting chloroacetic anhydride for di (2-pyridyl)thiocarbonate and cyclizing the initially formed N8 -(chloroacetyl)-1,2,3,4-tetrahydro-N3,N3 -dimethyl-3,8-quinolinediamine by heating at 150°0 C. in DMF.

reactant | di (2-pyridyl)thiocarbonate | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=S | C11H8N2O2S
reactant | N8 -(chloroacetyl)-1,2,3,4-tetrahydro-N3,N3 -dimethyl-3,8-quinolinediamine | ClCC(=O)NC=1C=CC=C2CC(CNC12)N(C)C | C13H18ClN3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1,2,6,7-Tetrahydro-6-(dimethylamino)-3H,5H-pyrido(1,2,3-de)quinoxalin-2-one | CN(C1CC=2C=3N(CC(NC3C=CC2)=O)C1)C | C13H17N3O
